US07220856B2
Preparation of 7-Chloro-4-[4-(4-fluorophenylsulfonyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (0.25 g, 1.0 mmol), 4-fluorobenzenesulfonyl chloride (0.23 g, 1.2 mmol), and triethylamine (349 μL, 2.5 mmol) are stirred at room temp. for 15 h. The reaction mixture is diluted with EtOAc, washed with water, dried (MgSO4), and concentrated. The residue is purified by column chromatography with hexane-EtOAc yielding the title product as a colorless solid.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 1.0 mmol, 0.25 g | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | 4-fluorobenzenesulfonyl chloride | 1.2 mmol, 0.23 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | triethylamine | 2.5 mmol, 349 μL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Chloro-4-[4-(4-fluorophenylsulfonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)F | C19H17ClFN3O2S
